US08378107B2
Step 5: (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
[3-(3-Ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride (0.40 g, 0.89 mmol) and diisopropylethylamine (1.0 mL, 5.74 mmol) were combined in CH2Cl2 (5 mL) and stirred for 5 minutes. Cyclopropanecarbonyl chloride (0.09 mL, 0.99 mmol) was added, and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The mixture was partitioned between CH2Cl2 and saturated aqueous NaHCO3, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by silica gel chromatography (0-75% EtOAc in hexanes) to give the title compound.

reactant | [3-(3-Ethylaminomethyl-quinolin-2-yl)-4-methoxy-phenyl]-acetic acid ethyl ester, dihydrochloride | 0.89 mmol, 0.40 g | Cl.Cl.C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CNCC)=O
reactant | diisopropylethylamine | 5.74 mmol, 1.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Cyclopropanecarbonyl chloride | 0.99 mmol, 0.09 mL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (3-{3-[(Cyclopropanecarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CN(CC)C(=O)C1CC1)=O | C27H30N2O4
